US04824848
5-Butyl-3-methylamino-7-(2-benzylaminoethyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 5-butyl-7-(2-chloroethyl)-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (0.6 g, 2 mM) and benzylamine (0.66 ml, 6 mM) in dioxane (20 ml) was refluxed for 20 hours. The reaction solution was concentrated to dryness under reduced pressure to give a syrup, which was poured onto ice-water to give colorless crystals. The crystls were dissolved in 1N-HCl and insoluble material was filtered off, followed by addition of 1N-ammonia water to give crystals. Recrystallization from DMF/methanol/water afforded colorless needles (0.32 g, 43%), m.p. 198°-200° C.

reactant | 5-butyl-7-(2-chloroethyl)-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2 mM, 0.6 g | C(CCC)N1C(N(C2=C(C1=O)C(=NN2)NC)CCCl)=O | C12H18ClN5O2
reactant | benzylamine | 6 mM, 0.66 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | 5-Butyl-3-methylamino-7-(2-benzylaminoethyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(CCC)N1C(N(C2=C(C1=O)C(=NN2)NC)CCNCC2=CC=CC=C2)=O | C19H26N6O2
